US03993683
2-Hydroxyethyl-[2-(4-biphenylyl)-2-hydroxy-ethyl]sulfide
2-Hydroxyethyl-[2-(2'-fluoro-4-biphenylyl)-2-hydroxyethyl]-sulfide, an oil, Rf -value: 0.3 on silicagel-polygram-plates with benzene/ethyl acetate = 1:1 as the eluant, was prepared in analogous manner.

reactant | 2-Hydroxyethyl-[2-(2'-fluoro-4-biphenylyl)-2-hydroxyethyl]-sulfide | OCCSCC(O)C1=CC=C(C=C1)C1=C(C=CC=C1)F | C16H17FO2S
solvent | benzene ethyl acetate | C1=CC=CC=C1.C(C)(=O)OCC
product | 2-Hydroxyethyl-[2-(4-biphenylyl)-2-hydroxy-ethyl]sulfide | OCCSCC(O)C1=CC=C(C=C1)C1=CC=CC=C1 | C16H18O2S
